US03963706
b. 2-Cyclohexylamino-N-(4-nitrophenyl)-acetamide
2-Chloro-N-(4-nitrophenyl)-acetamide (11.5g) and cyclohexylamine (10.7g) were heated together 2 hours at 150° and then added to ethyl acetate/water. The product was extracted with ethyl acetate to yield 9.0g, m.p. 123°-125°C.

reactant | 2-Chloro-N-(4-nitrophenyl)-acetamide | 11.5g | ClCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | cyclohexylamine | 10.7g | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 2-Cyclohexylamino-N-(4-nitrophenyl)-acetamide | C1(CCCCC1)NCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C14H19N3O3
